US07919496B2
SYNTHESIS OF 2-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-THIAZOLE-5-CARBOXYLIC ACID PENTYLAMIDE
A mixture of 2-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]thiazole-5-carboxylic acid methyl ester (0.317 g, 0.79 mmol), amylamine (2.0 mL) and NaCN (0.078 g, 1.59 mmol) was stirred at room temperature overnight. The title compound was obtained as a white powder after purification by column chromatography (0.207 g, 8.5% in 2 steps). m.p. 92-94° C. 1H NMR (300 MHz, CDCl3) δ 7.72 (d, J=7.5 Hz, 1H), 7.63-7.51 (m, 2H), 7.39 (s, 1H), 7.33 (d, J=7.5 Hz, 1H), 7.14-7.05 (m, 1H), 4.05-3.82 (m, 2H), 3.65-3.51 (m, 2H), 3.42-3.29 (m, 6H), 1.60-1.46 (m, 2H), 1.33-1.24 (m, 4H), 0.87 (t, J=4.2 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 170.1, 167.5, 161.2, 146.6, 134.2, 132.3, 129.5, 127.2, 126.8, 125.4, 121.7, 112.5, 48.1, 48.0, 40.8, 39.2, 29.4, 29.1, 22.3, 14.0. MS (ES+) m/z 455.0 (M+1).

reactant | 2-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]thiazole-5-carboxylic acid methyl ester | 0.79 mmol, 0.317 g | COC(=O)C1=CN=C(S1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H16F3N3O3S
reactant | amylamine | 2.0 mL | C(CCCC)N | C5H13N
reactant | NaCN | 1.59 mmol, 0.078 g | [C-]#N.[Na+]
product | 2-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-THIAZOLE-5-CARBOXYLIC ACID PENTYLAMIDE | C(CCCC)NC(=O)C1=CN=C(S1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H25F3N4O2S
